* FDC638P ELECTRICAL MODEL (SuperSOT-6 P-Ch DMOS)
* ------------------------
.SUBCKT  FDC638P  20  10  30
Rg     10    1    1
M1      2    1    3    3    DMOS    L=1u   W=1u
.MODEL DMOS PMOS (VTO={-0.8*{-0.003336*TEMP+1.0834}}  KP={-0.016*TEMP+15}  THETA=0.096  VMAX=4E5  LEVEL=3)        
Cgs     1    3    700p
Rd     20    4    11m TC=0.00368
Dds     4    3    DDS
.MODEL     DDS    D(BV={20*{0.0009*TEMP+0.9775}}   M=0.3  CJO=450p   VJ=0.7)
Dbody   20   3    DBODY
.MODEL   DBODY    D(IS=1.4E-13   N=1   RS=40m   TT=50n)
Ra      4    2    11m TC=0.00368
Rs      3    5    1m
Ls      5    30   0.5n
M2      1    8    6    6   INTER
E2      8    6    4    1   2
.MODEL   INTER    PMOS(VTO=0  KP=10   LEVEL=1)
Cgdmax  7    4    1400p
Rcgd    7    4    10meg
Dgd     4    6    DGD
Rdgd    4    6    10meg
.MODEL     DGD    D(M=0.7   CJO=1400p   VJ=0.35)
M3      7    9    1    1   INTER
E3      9    1    4    1   -2
.ENDS FDC638P
*
* FDC638P THERMAL MODEL
* ---------------------
.SUBCKT   638PTHM   50  40  100

Rop       50   60   1meg
Cop       60   70   1u   IC=0
E_W       40   70   40   60  1meg

E_Pave    80   40   VALUE = {V(40,70)/(TIME+1n)}
R80       80   40   1k

E_Tja     100   40   VALUE = {V(80,40)*156*V(90,40)}
R100      100   40   1k

R90       90   40   1k
E_rja     90   40   table {TIME} ; Normalized FDC638P Single Pulsed rja(t)
+(0.00001,0.005)
+(0.000034,0.006259)
+(0.000105,0.008063)
+(0.000276,0.01045)
+(0.00096,0.016)
+(0.009857,0.040616)
+(0.04,0.078542)
+(0.1,0.126876)
+(0.22,0.199376)
+(0.24,0.208468)
+(0.26,0.217501)
+(0.28,0.226593)
+(0.3,0.238677)
+(0.32,0.247709)
+(0.34,0.253751)
+(0.36,0.262844)
+(0.38,0.271876)
+(0.4,0.277918)
+(0.42,0.28701)
+(0.44,0.296043)
+(0.46,0.299094)
+(0.48,0.308186)
+(0.5,0.317219)
+(0.52,0.320269)
+(0.54,0.329302)
+(0.56,0.335344)
+(0.58,0.344436)
+(0.6,0.347427)
+(0.62,0.353469)
+(0.64,0.359511)
+(0.66,0.368603)
+(0.68,0.371594)
+(0.7,0.377636)
+(0.72,0.383677)
+(0.74,0.386728)
+(0.76,0.39277)
+(0.78,0.398811)
+(0.8,0.401802)
+(0.82,0.407844)
+(0.84,0.413886)
+(0.86,0.419927)
+(0.88,0.422978)
+(0.9,0.42902)
+(0.92,0.432011)
+(0.94,0.438053)
+(0.96,0.441103)
+(0.98,0.447145)
+(1,0.453187)
+(2,0.604229)
+(3,0.67978)
+(4,0.728114)
+(5,0.75228)
+(6,0.773396)
+(7,0.78548)
+(8,0.794572)
+(9,0.800614)
+(9.98874,0.814996)
+(21.243,0.86915)
+(48.8124,0.926904)
+(100,0.963746)
+(200,0.990937)
+(300,1)
.ENDS 638PTHM
